US05616586
To a solution of N-trifluoroacetyl-2-methoxycarbonyltetrahydroquinoline (8.7 g, 30.3 mmol)in THF (100 mL) was added slowly 0.5N potassium hexamethylsilazide in toluene (66.6 mL, 33.3 mmol) over 15 min at -78° C. The mixture was stirred for 10 min followed by addition of iodomethane (2.3 mL, 36.4 mmol) at the same temperature. The mixture was allowed to warm to room temperature, stirred 5 h, poured into water, and extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate, and concentrated to give 8.98 g of 2-methyl-N-trifluoroacetyl-2-methoxycarbonyltetrahydroquinoline (98%): 1H NMR (270 MHz, CDCl3) δ7.18 (m, 3H), 7.07 (m, 1H), 3.71 (s, 3H), 2.90 (td, 1H, J=13.9, 3.3 Hz), 2.50 (dt, 1H, J=13.9, 3.3 Hz), 2.28 (dt, 1H, J=13.9, 3.3 Hz), 1.56 (s, 3H), 1.53 (td, 1H, J=13.9, 3.3 Hz).

reactant | N-trifluoroacetyl-2-methoxycarbonyltetrahydroquinoline | 30.3 mmol, 8.7 g | FC(C(=O)N1C(CCC2CC=CC=C12)C(=O)OC)(F)F | C13H14F3NO3
reactant | potassium | 0.5N | [K] | K
reactant | toluene | 33.3 mmol, 66.6 mL | C1(=CC=CC=C1)C | C7H8
reactant | iodomethane | 36.4 mmol, 2.3 mL | IC | CH3I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-methyl-N-trifluoroacetyl-2-methoxycarbonyltetrahydroquinoline | 8.98 g, 98% | CC1(N(C2=CC=CCC2CC1)C(C(F)(F)F)=O)C(=O)OC | C14H16F3NO3
